US08084618B2
Synthesis of 4-[4-(3-{[4-chloro-3-(trifluoromethyl)benzoyl]amino}-[1,2,4]triazin-5-yl)-phenoxy]-N-methylpyridine-2-carboxamide
108.6 mg (0.337 mmol, 1.0 eq) of 4-[4-(3-amino-[1,2,4]triazin-5-yl)-phenoxy]-N-methylpyridine-2-carboxamide can be dissolved in 2 mL of anhydrous DMF with heating to about 100° C. 45.4 mg (0.405 mmol, 1.2 equivalent) of solid t-BuOK can be added to the solution, followed by 0.405 mmol (1.2 equivalent) of 4-chloro-3-trifluoromethylbenzoyl chloride. It can be allowed to stir at ambient temperature for 1-2 hours. The product can be isolated by a number of methods known to those skilled in the art, such as precipitation or by extraction with a number of solvents, such as ethyl acetate, methylene chloride or diethyl ether or by silica gel column chromatography, or by reverse-phase prep-HPLC chromatography.

reactant | 4-[4-(3-amino-[1,2,4]triazin-5-yl)-phenoxy]-N-methylpyridine-2-carboxamide | 0.337 mmol, 108.6 mg, 1.0 eq | NC=1N=NC=C(N1)C1=CC=C(OC2=CC(=NC=C2)C(=O)NC)C=C1 | C16H14N6O2
reactant | t-BuOK | CC(C)(C)[O-].[K+]
reactant | 4-chloro-3-trifluoromethylbenzoyl chloride | 0.405 mmol, 1.2 equivalent | ClC1=C(C=C(C(=O)Cl)C=C1)C(F)(F)F | C8H3Cl2F3O
solvent | DMF | 2 mL | CN(C)C=O | C3H7NO
product | 4-[4-(3-{[4-chloro-3-(trifluoromethyl)benzoyl]amino}-[1,2,4]triazin-5-yl)-phenoxy]-N-methylpyridine-2-carboxamide | ClC1=C(C=C(C(=O)NC=2N=NC=C(N2)C2=CC=C(OC3=CC(=NC=C3)C(=O)NC)C=C2)C=C1)C(F)(F)F | C24H16ClF3N6O3
